US05120738
Preparation of 3-[N-(2,2,5,5-Tetramethyl-1,3-dioxane-4-carbonyl)amino)propionic Acid
An aqueous 1N sodium hydroxide solution (100 ml) was added to a solution 35 g of benzyl 3-[N-(2,2,5,5-Tetramethyl-1,3-dioxane-4-carbonyl)amino]propionate in 350 ml of methanol, and the mixture was stirred under ice cooling for 1 hour. After completion of the reaction, methanol was distilled off under reduced pressure. The aqueous layer was extracted with ethyl acetate. After adding 1N hydrochloric acid to the aqueous layer to render it acidic, the aqueous layer was extracted with ethyl acetate. The organic layer washed with water and then with saturated saline, and dried over anhydrous sodium sulfate. Removal of the solvent by evapoation afforded 20.4 g of the objective compound (yield: 78%).

reactant | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
reactant | benzyl 3-[N-(2,2,5,5-Tetramethyl-1,3-dioxane-4-carbonyl)amino]propionate | 35 g | CC1(OCC(C(O1)C(=O)NCCC(=O)OCC1=CC=CC=C1)(C)C)C | C19H27NO5
solvent | methanol | 350 ml | CO | CH4O
product | 3-[N-(2,2,5,5-Tetramethyl-1,3-dioxane-4-carbonyl)amino)propionic Acid | 20.4 g, yield: 78% | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
